US06531492B1
1-(3-METHYL-4-METHOXYPHENYL)ETHANONE (STEP 1)
To a stirred solution of 1-(3-methyl-4-hydroxylphenyl)ethanone (15.02 g, 100 mmol) in MeOH was added K2CO3 (41.5 g, 300 mmol), and Mel (28.4 g, 200 mmol). The reaction mixture was stirred at room temperature for 2 hours. Another 56.7 g of Mel was added, and the reaction mixture was stirred for an additional 2 hours. Water (50 ml) was added, and the product was extracted with 600 ml of EtOAc. The organic layer was washed with brine (250 ml), and dried with Na2SO4, and the solvent was removed in vacuo to give the title compound (10.2 g, 62%).

reactant | 1-(3-methyl-4-hydroxylphenyl)ethanone | 100 mmol, 15.02 g | CC=1C=C(C=CC1O)C(C)=O | C9H10O2
reactant | K2CO3 | 300 mmol, 41.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 50 ml | O | H2O
solvent | MeOH | CO | CH4O
product | 1-(3-METHYL-4-METHOXYPHENYL)ETHANONE | 10.2 g, 62% | CC=1C=C(C=CC1OC)C(C)=O | C10H12O2
